US09315438B2
(2) Preparation of (5-bromo-2-chlorophenyl)(4-methoxyphenyl)methanone
Anhydrous aluminum trichloride (155 g, 1.16 mol) was suspended in methylene chloride (2050 mL) under a nitrogen protection. To the resulting mixture was added anisole (125 mL, 1.15 mol) in one batch at −5° C. After stirring for 20 mins, to the mixture was added dropwise a solution of 5-bromo-2-chlorobenzoyl chloride in methylene chloride (300 mL). The resulting mixture was reacted at −5° C. for 3 h. TLC indicated the completion of reaction. To the reaction mixture was poured 2N hydrochloric acid. The resulting mixture was separated into an organic phase and an aqueous phase. The organic phase was washed with a saturated sodium bicarbonate solution for two times and with a saturated sodium chloride solution, dried over anhydrous sodium sulphate, and evaporated by rotation to produce a solid. To the solid was added ethanol (150 mL), and the resulting mixture was washed and starched for 30 mins and filtered. The filter cake was oven dried to produce 265 g of a product in a yield of 71%.

reactant | aluminum trichloride | 1.16 mol, 155 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | anisole | 1.15 mol, 125 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | 5-bromo-2-chlorobenzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)Cl | C7H3BrCl2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 2050 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (5-bromo-2-chlorophenyl)(4-methoxyphenyl)methanone | 265 g, yield of 71% | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)OC)Cl | C14H10BrClO2
